US07807693B2
(a) (2R,4R)-4-methoxy-pyrrolidine-2-carboxylic acid (as hydrochloride)
10.3 g (48.9 mmol) 1-tert.butoxy (2R,4R)-4-methoxy-pyrrolidine-1,2-dicarboxylate are dissolved in 50 ml THF, 50 ml 6N hydrochloric acid (300 mmol) are added and the mixture is stirred for three hours. The reaction mixture is evaporated to dryness i.vac.

reactant | 1-tert.butoxy (2R,4R)-4-methoxy-pyrrolidine-1,2-dicarboxylate | 48.9 mmol, 10.3 g | CO[C@@H]1C[C@@H](N(C1)C(=O)OOC(C)(C)C)C(=O)[O-]
reactant | hydrochloric acid | 300 mmol, 6N, 50 ml | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (2R,4R)-4-methoxy-pyrrolidine-2-carboxylic acid | CO[C@@H]1C[C@@H](NC1)C(=O)O | C6H11NO3
